US08614215B2
Intermediate 43: 2-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-5-methoxyaniline
N-{2-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-5-methoxyphenyl}-2,2,2-trifluoroacetamide (890 mg; 2.44 mmol; 1 eq) is suspended in MeOH (15 mL). To the yellow-brown suspension is added dropwise a solution of potassium carbonate (403.98 mg; 2.92 mmol; 1.2 eq) in water (4 mL). Immediately, the suspension lighted up. Stirring is continued at room temperature for 1 h. No conversion is observed. Lithium hydroxide monohydrate (112.44 mg; 2.68 mmol; 1.1 eq) is added leading to a turbid solution. Stirring is allowed to continue at room temperature overnight. No conversion is observed. Additional lithium hydroxide monohydrate (511.08 mg; 12.18 mmol; 5 eq) is added as a solution in water (5 mL). Stirring is continued at room temperature for 4 days. The suspension is cooled with an ice-bath and 5 N HCl is added until pH=1. The resulting solution is concentrated under reduced pressure until precipitation started (approx. 5 mL of solution left). n-Heptane is added as anti-solvent and the biphasic system is cooled with an ice-bath. The beige solid obtained is filtered off, rinsed twice with diethyl ether and dried under high vacuo to afford 580 mg (78%) of the title compound as an off-white solid. 1H NMR (DMSO-d6) δ 9.80 (br s, 2H), 7.17 (d, J=8.7 Hz, 1H), 6.94 (d, J=2.6 Hz, 1H), 6.83 (dd, J=8.7 Hz, 2.6 Hz, 1H), 3.73 (s, 3H), 3.03-2.99 (m, 4H), 2.61-2.58 (m, 2H), 2.10-1.98 (m, 1H), 1.91-1.86 (m, 2H), 1.72-1.61 (m, 2H). HPLC (max plot) 95.5%; Rt 1.55 min. LC/MS: (ES+): 270.1.

reactant | N-{2-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-5-methoxyphenyl}-2,2,2-trifluoroacetamide | 2.44 mmol, 890 mg, 1 eq | O=S1(CCC(CC1)CC1=C(C=C(C=C1)OC)NC(C(F)(F)F)=O)=O | C15H18F3NO4S
reactant | potassium carbonate | 2.92 mmol, 403.98 mg, 1.2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | Lithium hydroxide monohydrate | 2.68 mmol, 112.44 mg, 1.1 eq | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 12.18 mmol, 511.08 mg, 5 eq | O.[OH-].[Li+]
reactant | HCl | 5 N | Cl | ClH
solvent | MeOH | 15 mL | CO | CH4O
solvent | water | 4 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | 2-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-5-methoxyaniline | 580 mg, 78% | O=S1(CCC(CC1)CC1=C(N)C=C(C=C1)OC)=O | C13H19NO3S
